US09362564B2
In a 300 ml conical flask, 2-methyl-5-azoniaspiro[4,4]nonanebromide (50.0 g, 0.225 mol), potassium bis(fluorosulfonyl)amide (54.0 g, 0.248 mol), and 30 ml of water were added. This liquid was mixed and stirred in the air at room temperature, so that a two-layer mixture of an aqueous layer and an objective liquid was obtained. An object was extracted from the aqueous layer of the mixture with methylene chloride. The extracting solution and the liquid obtained in the stirring were combined, washed with pure water 6 times, and dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was concentrated to give a liquid. The liquid was dried under reduced pressure at 60° C. for 8 hours to obtain 2-methyl-5-azoniaspiro[4,4]nonane bis(fluorosulfonyl)amide (64.11 g, 0.20 mol).

reactant | 2-methyl-5-azoniaspiro[4,4]nonanebromide | 0.225 mol, 50.0 g | [Br-].CC1C[N+]2(CC1)CCCC2
reactant | potassium bis(fluorosulfonyl)amide | 0.248 mol, 54.0 g | FS(=O)(=O)[N-]S(=O)(=O)F.[K+]
solvent | water | 30 ml | O | H2O
product | 2-methyl-5-azoniaspiro[4,4]nonane bis(fluorosulfonyl)amide | 0.20 mol, 64.11 g | FS(=O)(=O)[N-]S(=O)(=O)F.CC1C[N+]2(CC1)CCCC2 | InChI=1S/C9H18N.F2NO4S2/c1-9-4-7-10(8-9)5-2-3-6-10;1-8(4,5)3-9(2,6)7/h9H,2-8H2,1H3;/q+1;-1
